US05281619
2-Diacetylamino-4-(3-nitrophenyl)-4H-naphtho[1,2-b]pyran-3-carbonitrile (3.62 g) was dissolved in chloroform (200 ml) and mechanically stirred in the presence of Grade III alumina (36 g) for 24 hours at ambient temperature. The suspension was filtered, the alumina pad was washed through with 5% methanol in chloroform, the combined filtrates were evaporated and the residue was triturated with a little chloroform. The white solid was dissolved in dioxan (50 ml) and left to stand for 24 hours. An impurity precipitated out and this was filtered off. Water was added (200 ml) to the filtrate and the solid produced was filtered off, washed with water and dried. This solid was passed through a chloroform--`flash` silica column. The fractions containing product were bulked, evaporated to dryness and triturated with methanol to give yellow crystals of 2-acetamido-4-(3-nitrophenyl)-4H-naphtho[1,2-b]pyran-3-carbonitrile, m.p. 234.5°-236° C.

reactant | 2-Diacetylamino-4-(3-nitrophenyl)-4H-naphtho[1,2-b]pyran-3-carbonitrile | 3.62 g | C(C)(=O)N(C1=C(C(C2=C(O1)C1=CC=CC=C1C=C2)C2=CC(=CC=C2)[N+](=O)[O-])C#N)C(C)=O | C24H17N3O5
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-acetamido-4-(3-nitrophenyl)-4H-naphtho[1,2-b]pyran-3-carbonitrile | C(C)(=O)NC1=C(C(C2=C(O1)C1=CC=CC=C1C=C2)C2=CC(=CC=C2)[N+](=O)[O-])C#N | C22H15N3O4
